US07326791B2
(c) rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4,5,6,7-tetrahydrobenzimidazol-1-yl)-3-trifluoromethylbenzamide
Prepared analogously to Example 1g from 4-(4,5,6,7-tetrahydrobenzimidazol-1-yl)-3-trifluoromethylbenzoic acid, TBTU, triethylamine, and (5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 65%; Rf value: 0.30 (silica gel; ethyl acetate/ethanol=4:1); C24H21ClF3N5O (487.91); mass spectrum: (M−H)−=486/488 (chlorine isotope).

reactant | 4-(4,5,6,7-tetrahydrobenzimidazol-1-yl)-3-trifluoromethylbenzoic acid | N1(C=NC2=C1CCCC2)C2=C(C=C(C(=O)O)C=C2)C(F)(F)F | C15H13F3N2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)CCN)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4,5,6,7-tetrahydrobenzimidazol-1-yl)-3-trifluoromethylbenzamide | Yield: 65% | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)N2C=NC3=C2CCCC3)C(F)(F)F)=O)C=C1 | C24H21ClF3N5O
